US05434184
A preformed solution of 4-[2-(N-benzyl-N-(2-hydroxy-2-phenylethyl)amino)ethoxy]phenylacetamide in propan-2-ol and glacial acetic acid (see below) was hydrogenated in the presence of 10% w/w palladium on carbon (1.0 g) at about 20 bar and 60° C. for 12 hours. The mixture was cooled, filtered and the filtrate was evaporated under reduced pressure. The residual oil thus obtained was dissolved in ethyl acetate and treated with a solution of ether saturated with hydrogen chloride. The precipitated solid was crystallised from methanol to give 4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetamide hydrochloride (6.8 g), m.p. 250°-251° C. (softens at about 248° C.); microanalysis: found C, 61.2; H, 6.5; N, 8.3; Cl, 10.3%; required for C18H23ClN2O3 : C, 61.6; H, 6.6; N, 8.0; Cl, 10.1%.

reactant | 4-[2-(N-benzyl-N-(2-hydroxy-2-phenylethyl)amino)ethoxy]phenylacetamide | C(C1=CC=CC=C1)N(CC(C1=CC=CC=C1)O)CCOC1=CC=C(C=C1)CC(=O)N | C25H28N2O3
reactant | ether | CCOCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | propan-2-ol | CC(C)O | C3H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetamide hydrochloride | 6.8 g | Cl.OC(CNCCOC1=CC=C(C=C1)CC(=O)N)C1=CC=CC=C1 | InChI=1S/C18H22N2O3.ClH/c19-18(22)12-14-6-8-16(9-7-14)23-11-10-20-13-17(21)15-4-2-1-3-5-15;/h1-9,17,20-21H,10-13H2,(H2,19,22);1H
